US08895745B2
Step (d) 3-Iodo-7-(5-methyl-[1,3,4]oxadiazol-2-yl)-imidazo[1,2-a]pyridine
3-Iodo-imidazo[1,2-a]pyridine-7-carboxylic acid hydrazide (0.18 g, 0.59 mmol) was treated with triethylorthoacetate (3 ml) and concentrated H2SO4 (1 drop). The mixture was heated at 80° C. o/n, allowed to cool, solid was filtered off and washed with EtOH and dried to afford 0.165 g of product. MS: [M+H]+ 327

reactant | 3-Iodo-imidazo[1,2-a]pyridine-7-carboxylic acid hydrazide | 0.59 mmol, 0.18 g | IC1=CN=C2N1C=CC(=C2)C(=O)NN | C8H7IN4O
reactant | triethylorthoacetate | 3 ml | C(C)C(C([O-])([O-])[O-])(CC)CC
catalyst | H2SO4 | 1 drop | OS(=O)(=O)O | H2O4S
product | 3-Iodo-7-(5-methyl-[1,3,4]oxadiazol-2-yl)-imidazo[1,2-a]pyridine | 0.165 g | IC1=CN=C2N1C=CC(=C2)C=2OC(=NN2)C | C10H7IN4O
